US08044090B2
5-Chlorotryptamine
Add 5-chlorotryptamine hydrochloride (15 g, 0.06 mole) water (150 ml), NaOH 1N (75 ml), and dichloromethane (350 mL). Stir the mixture at room temperature for 30 minutes, and separate the phases. Wash the aqueous phase with dichloromethane, combine the organic phases, dry over MgSO4, filter, and evaporate to dryness under vacuum to give the title compound.

reactant | 5-chlorotryptamine hydrochloride | 0.06 mole, 150 ml, 15 g | Cl.ClC1=CC=C2NC=C(CCN)C2=C1
reactant | NaOH | 1N, 75 ml | [OH-].[Na+]
solvent | dichloromethane | 350 mL | ClCCl | CH2Cl2
product | 5-Chlorotryptamine | ClC1=CC=C2NC=C(CCN)C2=C1 | C10H11ClN2
